US04857527
A mixture of 3-(3-nitrophenyl)-1-phenyl-2-propen-1-one (0.5 g), ethyl nitroacetate (0.29 g), piperidine (3 drops), dioxane (5 ml) and ethanol (5 ml) was refluxed for 2 hours. After allowing to cooling at ambient temperature, the reaction mixture was evaporated in vacuo. The residue was subjected to a column chromatography on silica gel (50 ml) eluting with benzene. The fractions containing the object compound were combined and concentrated under reduced pressure to give ethyl 2-nitro-3-(3-nitrophenyl)-5-oxo-5-phenylpentanoate (0.15 g).

reactant | 3-(3-nitrophenyl)-1-phenyl-2-propen-1-one | 0.5 g | [N+](=O)([O-])C=1C=C(C=CC1)C=CC(=O)C1=CC=CC=C1 | C15H11NO3
reactant | ethyl nitroacetate | 0.29 g | [N+](=O)([O-])CC(=O)OCC | C4H7NO4
reactant | dioxane | 5 ml | O1CCOCC1 | C4H8O2
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | ethyl 2-nitro-3-(3-nitrophenyl)-5-oxo-5-phenylpentanoate | 0.15 g | [N+](=O)([O-])C(C(=O)OCC)C(CC(C1=CC=CC=C1)=O)C1=CC(=CC=C1)[N+](=O)[O-] | C19H18N2O7
